US07259182B2
To 2.90 g (13 mmol) 1-(4-methoxyphenyl)-1H-indole in 80 ml anhydrous DCM at −78° C. was added 2.27 ml (24 mmol) BBr3. The solution was allowed to gradually warm to room temperature overnight. The solution was poured into a slurry of ice and water. Brine was added and the product was extracted with ethyl acetate. The organic phase was dried over MgSO4 and concentrated. The crude product was chromatographed on SiO2 to afford 0.73 g 1-(4-hydroxyphenyl)-1H-indole as an oil.

reactant | 1-(4-methoxyphenyl)-1H-indole | 13 mmol, 2.90 g | COC1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C15H13NO
reactant | BBr3 | 24 mmol, 2.27 ml | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
solvent | Brine | [Cl-].[Na+].O
product | 1-(4-hydroxyphenyl)-1H-indole | 0.73 g | OC1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C14H11NO
